US05608069
A mixture of potassium cyanide (2.0 g, 31 mmol), 4-fluorobenzaldehyde, 96% ethanol (30 ml) and water (30 ml) was heated at reflux for 0.5 h and then kept at 5° C. for 72 h. The precipitated compound was collected and recrystallised from ethanol/water to give 20 g of 2-hydroxy-1,2-bis(4-fluorophenyl)ethanone.

reactant | potassium cyanide | 31 mmol, 2.0 g | [C-]#N.[K+]
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 2-hydroxy-1,2-bis(4-fluorophenyl)ethanone | 20 g | OC(C(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C14H10F2O2
